US06110933
(S)-Methyl 3-hydroxyhexadecanoate and benzyl bromide were reacted according to a similar manner to that of Preparation 1 to give (S)-benzyl 3-hydroxyhexadecanoate.

reactant | (S)-Methyl 3-hydroxyhexadecanoate | O[C@H](CC(=O)OC)CCCCCCCCCCCCC | C17H34O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | (S)-benzyl 3-hydroxyhexadecanoate | O[C@H](CC(=O)OCC1=CC=CC=C1)CCCCCCCCCCCCC | C23H38O3
